US08017611B2
1-Bromopyrrolidine-2,5-dione (199 mg) was added to a stirred solution of 2-(2-amino-3-pyridyl)-1,3-benzoxazole-4-carbonitrile (240 mg) dissolved in tetrahydrofuran (5 ml) over a period of 5 minutes. The resulting solution was stirred at 25° C. for 2 hours. The solvent was evaporated and the residue was washed with water. The residue was basified with 7 M ammonia in methanol and adsorbed on silica gel with methylene chloride. The crude product was purified by flash chromatography on silica gel eluting with 1 to 2% methanol in dichloromethane. The solvent was evaporated to dryness to afford 2-(2-amino-5-bromopyridin-3-yl)benzo[d]oxazole-4-carbonitrile (205 mg) as a solid. NMR Spectrum: (CDCl3): 7.47 (dd, 1H), 7.70 (dd, 1H), 7.82 (dd, 1H), 7.97 (bs, 2H), 8.31 (d, 1H), 8.41 (d, 1H); Mass spectrum: M+H+ 315-317

reactant | 1-Bromopyrrolidine-2,5-dione | 199 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-(2-amino-3-pyridyl)-1,3-benzoxazole-4-carbonitrile | 240 mg | NC1=NC=CC=C1C=1OC=2C(N1)=C(C=CC2)C#N | C13H8N4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(2-amino-5-bromopyridin-3-yl)benzo[d]oxazole-4-carbonitrile | 205 mg | NC1=NC=C(C=C1C=1OC=2C(N1)=C(C=CC2)C#N)Br | C13H7BrN4O
